plaintext
* NMOS and PMOS have Source and Body connected together
M1 3 1 2 2 NMOS
M2 3 2 4 4 NMOS

R1 3 5 5k
R2 3 5 5k

V1 5 0 DC 6V
Vin 1 0 DC 0V

.tran 1n 10n
.end